US07759337B2
A mixture of 6-bromo-1-chlorophthalazine (0.12 g, 0.5 mmol), 1-methylpiperazine (0.11 mL, 1.0 mmol) and potassium carbonate (0.07 g, 0.5 mmol) in ACN (5 mL) was added to a glass microwave reaction vessel. The reaction mixture was stirred and heated in a Smith Synthesizer® microwave reactor (Personal Chemistry, Inc., Upssala, Sweden) at 180° C. for 20 min. The mixture was concentrated in vacuo, and was purified by flash chromatography (silica gel) eluting with 2% 2 M ammonia in methanol/dichloromethane to 6% 2 M ammonia in MeOH/D)CM to give 6-bromo-1-(4-methylpiperazin-1-yl)phthalazine as yellow solid. MS (ES+): 307, 309 (M+H)+.

reactant | 6-bromo-1-chlorophthalazine | 0.5 mmol, 0.12 g | BrC=1C=C2C=NN=C(C2=CC1)Cl | C8H4BrClN2
reactant | 1-methylpiperazine | 1.0 mmol, 0.11 mL | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 0.5 mmol, 0.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | ACN | 5 mL | C(C)#N | C2H3N
product | 6-bromo-1-(4-methylpiperazin-1-yl)phthalazine | BrC=1C=C2C=NN=C(C2=CC1)N1CCN(CC1)C | C13H15BrN4
